US07371748B2
N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-2-(tetrahydro-pyran-4-yl)-acetamide
Using 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine and tetrahydropyran-4-yl acetic acid, the tide compound was prepared as white powder. MS: m/e=407(M+H+).

reactant | 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)N)OC | C13H16N2O3S
reactant | tetrahydropyran-4-yl acetic acid | O1CCC(CC1)CC(=O)O | C7H12O3
product | N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-2-(tetrahydro-pyran-4-yl)-acetamide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(CC2CCOCC2)=O)OC | C20H26N2O5S
